US09278968B2
Under a nitrogen atmosphere, to a mixture of 5.55 g of (2R)-1-{[tert-butyl(dimethyl)silyl]oxy}-2-[2-(difluoromethyl)-2H-tetrazol-5-yl]propan-2-amine, 7.5 ml of triethylamine, 220 mg of 4-dimethylaminopyridine, and 110 ml of 1,2-dichloroethane was added 8.88 g of 8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carbonyl chloride hydrochloride, followed by stirring at 70° C. for 2 hours. The reaction mixture was left to be cooled to room temperature, and was added to the mixture of water and ethyl acetate. The insoluble materials were separated by filtration and washed with ethyl acetate, and the aqueous layer was extracted with ethyl acetate. The organic layer was combined, washed with water and a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 8.70 g of N-{(2R)-1-{[tert-butyl (dimethyl)silyl]oxy}-2-[2-(difluoromethyl)-2H-tetrazol-5-yl]propan-2-yl}-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxamide.

reactant | (2R)-1-{[tert-butyl(dimethyl)silyl]oxy}-2-[2-(difluoromethyl)-2H-tetrazol-5-yl]propan-2-amine | 5.55 g | [Si](C)(C)(C(C)(C)C)OC[C@](C)(N)C=1N=NN(N1)C(F)F | C11H23F2N5OSi
reactant | triethylamine | 7.5 ml | C(C)N(CC)CC | C6H15N
reactant | 1,2-dichloroethane | 110 ml | ClCCCl | C2H4Cl2
reactant | 8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carbonyl chloride hydrochloride | 8.88 g | Cl.FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)Cl)C(=CC=C1)F
catalyst | 4-dimethylaminopyridine | 220 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | N-{(2R)-1-{[tert-butyl (dimethyl)silyl]oxy}-2-[2-(difluoromethyl)-2H-tetrazol-5-yl]propan-2-yl}-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxamide | 8.70 g | C(C)(C)(C)[Si](OC[C@@](C)(C=1N=NN(N1)C(F)F)NC(=O)C1=C(N=C2N1C=CC=C2OCC2=C(C=CC=C2F)F)C)(C)C | C27H33F4N7O3Si
